US09163033B2
2-methyl-2-(2,2,2-trifluoroethoxy)-N-(phenylmethoxy)-propanamide:
Produced as a by-product 56% from the reaction of 2-bromo-2-methyl-N-(phenylmethoxy)propanamide with TEA in furan and trifluoroethanol. Rf=0.26 (3:1, hexanes:EtOAc); 1H NMR (500 MHz, CDCl3) δ 8.88 (s, 1H), 7.56-7.31 (m, 5H), 4.94 (s, 2H), 3.68 (q, J=8.3 Hz, 2H), 1.43 (s, 6H); 13C NMR (125 MHz, CDCl3) 13C NMR (101 MHz, cdcl3) δ 170.8, 134.9, 129.4, 129.0, 128.7, 123.7 (q, J=278 Hz), 80.4, 78.3, 61.6 (q, J=35 Hz), and 23.6; FT-IR 3218 (br), 3036; 2942, 2886, 1663 (st), 1430, 1455, 1485, 1386, 1369, 1307, 1285, 1217, 1181, 1145, 1029, 1010 cm-1; HR-ESIMS calculated for C13H17F3NO3 (M+H)+ 292.1155, observed 292.1160.

reactant | 2-bromo-2-methyl-N-(phenylmethoxy)propanamide | BrC(C(=O)NOCC1=CC=CC=C1)(C)C | C11H14BrNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | trifluoroethanol | C(C(F)(F)F)O | C2H3F3O
solvent | furan | O1C=CC=C1 | C4H4O
product | 2-methyl-2-(2,2,2-trifluoroethoxy)-N-(phenylmethoxy)-propanamide | CC(C(=O)NOCC1=CC=CC=C1)(C)OCC(F)(F)F | C13H16F3NO3
